US07977340B2
Step 6. 1-Ethyl-3-(5-pyrazol-1-yl-7-pyridin-3-yl-benzothiazol-2-yl)-urea. [Example 12]
To a solution of 1-(7-bromo-5-pyrazol-1-yl-benzothiazol-2-yl)-3-ethyl-urea (0.27 g, 0.74 mmol) in DMF: H2O (2:1, 15 mL) was added 3-pyridyl boronic acid (0.11 g, 0.88 mmol) and K3PO4 (0.17 g, 0.81 mmol) under nitrogen atmosphere at room temperature. The reaction mixture was then degassed for half an hour followed by the addition of bis(triphenylphosphine)palladium(II) dichloride (0.077 g, 0.11 mmol). The reaction mixture was then again degassed for half an hour and heated at 120° C. for 2 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), DMF was distilled off; water was added to the reaction mixture and extracted with ethyl acetate. The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The crude residue was purified over silica gel (230-400 M) using EtOAc-Hexane (70:30) to provide the title compound (0.066 g, 22%).

reactant | 1-(7-bromo-5-pyrazol-1-yl-benzothiazol-2-yl)-3-ethyl-urea | 0.74 mmol, 0.27 g | BrC1=CC(=CC=2N=C(SC21)NC(=O)NCC)N2N=CC=C2 | C13H12BrN5OS
reactant | 3-pyridyl boronic acid | 0.88 mmol, 0.11 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K3PO4 | 0.81 mmol, 0.17 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF H2O | 15 mL | CN(C)C=O.O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.11 mmol, 0.077 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Ethyl-3-(5-pyrazol-1-yl-7-pyridin-3-yl-benzothiazol-2-yl)-urea | 0.066 g, 22% | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C=2C=NC=CC2)N2N=CC=C2 | C18H16N6OS
